US07728030B2
2,2,2-Trifluoro-N-[(2RS,3SR)-3-[1-(4-fluorophenyl)indazol-5-yl]oxy-4-phenoxy-butan-2-yl]acetamide
Prepared as described in Example 1 using (2RS,3SR)-3-[1-(4-fluorophenyl)indazol-5-yl]oxy-4-phenoxy-butan-2-amine (38 mg, 0.097 mmol) and trifluoroacetic anhydride (0.041 ml, 0.29 mmol). Yield 40 mg (85%).

reactant | (2RS,3SR)-3-[1-(4-fluorophenyl)indazol-5-yl]oxy-4-phenoxy-butan-2-amine | 0.097 mmol, 38 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)OC(C(C)N)COC1=CC=CC=C1 | C23H22FN3O2
reactant | trifluoroacetic anhydride | 0.29 mmol, 0.041 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2,2,2-Trifluoro-N-[(2RS,3SR)-3-[1-(4-fluorophenyl)indazol-5-yl]oxy-4-phenoxy-butan-2-yl]acetamide | FC(C(=O)NC(C)C(COC1=CC=CC=C1)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F)(F)F | C25H21F4N3O3
